US07932272B2
(5-(3-Fluoro-phenoxy)-furan-2-yl)-methanol
To a solution of 5-(3-fluoro-phenoxy)-furan-2-carbaldehyde described in Preparation Example 50 (1.5 g, 7.3 mmol) in tetrahydrofuran (20 mL) was added sodium borohydride (280 mg, 7.3 mmol), and the solution was stirred at room temperature for 1 hour. Water and ethyl acetate were added to the reaction solution, which was then partitioned, the organic layer was washed with water twice, and the organic layer was filtered through a glass filter lined with silica gel. The solvent was evaporated in vacuo, and the title compound (1.5 g, 7.2 mmol) was obtained as a pale yellow oil.

reactant | 5-(3-fluoro-phenoxy)-furan-2-carbaldehyde | FC=1C=C(OC2=CC=C(O2)C=O)C=CC1 | C11H7FO3
reactant | sodium borohydride | 7.3 mmol, 280 mg | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (5-(3-Fluoro-phenoxy)-furan-2-yl)-methanol | 7.2 mmol, 1.5 g | FC=1C=C(OC2=CC=C(O2)CO)C=CC1 | C11H9FO3
